*****************************************************************
* NXP BUK7Y6R0-60E
*
* Polarity N-Channel
* Ratings 60V/6.000000E-003OHMS/100A
*
* Date Created Tue Feb 05 09:44:56 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y6R0-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 6000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00280413029850932 TC=0.00514518470026236,1.49588907668566E-05
RBD 9 4 0.003117409023171 TC=0.00514518470026236,1.49588907668566E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.0192e-09
RG 1 2 2.57663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1.5  1400
+ -1	1255
+ -0.5	945
+ -0.2	793
+ -0.1	761
+ 0	749
+ 0.1	662
+ 0.2	585
+ 0.5	552
+ 1	466
+ 2	349
+ 3	296
+ 4	272
+ 5	260
+ 6	252
+ 8	241
+ 10	233
+ 12	227
+ 15	215
+ 20	205
+ 30	187
+ 50	170
+ 60	153



.MODEL MINT NMOS(Vto=3.82 Kp=1.564016e+002 Nfs=850000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.42553441102453e-12
+ N=1 M=0.990000000000001 VJ=0.5 Fc=0.5 Cjo=1.75e-9 Tt=1.624e-08)

.ENDS

